US04246268
When in the procedure of Example 19, 4-[(4-chloro-1-naphthyl)methyl]piperidine hydrochloride is substituted for 2-naphthyl 4-piperidyl ketone hydrochloride, 4-[4-((4-chloro-1-naphthyl)methyl)-1-piperidyl]-1-phenyl-1-butanone hydrochloride is produced.

reactant | 4-[(4-chloro-1-naphthyl)methyl]piperidine hydrochloride | Cl.ClC1=CC=C(C2=CC=CC=C12)CC1CCNCC1
reactant | 2-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=CC=C2C=C1
product | 4-[4-((4-chloro-1-naphthyl)methyl)-1-piperidyl]-1-phenyl-1-butanone hydrochloride | Cl.ClC1=CC=C(C2=CC=CC=C12)CC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | InChI=1S/C26H28ClNO.ClH/c27-25-13-12-22(23-9-4-5-10-24(23)25)19-20-14-17-28(18-15-20)16-6-11-26(29)21-7-2-1-3-8-21;/h1-5,7-10,12-13,20H,6,11,14-19H2;1H
